US04385066
N-(3-(4-Carbomethoxyphenyl)-1,1-dimethylpropyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared as in Example 1a from 3-trifluoromethylphenyl glyoxal (2.0 g) and 3-(4-carbomethoxyphenyl)-1,1-dimethylpropylamine (2.6 g) and isolated as the hydrochloride salt monohydrate m.p. 214°-219°. (methanol-ether). τ(DMSO d6) 8.6 (6H,s), 7.8-8.2 (2H,m), 6.6-7.4 (4H,m), 6.1 (3H,s), 5.8 (3H, broad, replaceable by D2O), 4.8 (1H,m), 2.55 (2H,d,J=8 Hz), 2.1-2.4 (4H,m), 2.07 (2H,d,J=8 Hz), 1.3 (1H, broad, replaceable by D2O), 0.33 (1H, broad, replaceable by D2O).

reactant | 3-trifluoromethylphenyl glyoxal | 2.0 g | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 3-(4-carbomethoxyphenyl)-1,1-dimethylpropylamine | 2.6 g | C(=O)(OC)C1=CC=C(C=C1)CCC(C)(C)N | C13H19NO2
product | N-(3-(4-Carbomethoxyphenyl)-1,1-dimethylpropyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CCC(C)(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C22H26F3NO3
